US05985909
2-(Methoxycarbonyl)indole-6-carboxylic acid was coupled with glycine t-butyl ester hydrochloride in the presence of NaHCO3 (1 equivalent) by the method described above to give N-[(butoxycarbonyl)methyl]-2-(methoxycarbonyl)indole-6-carboxamide as a white solid (86%), mp 181-183.5° C. (EtOAc). 1H NMR (CDCl3) δ9.58 (s, 1H, indole NH), 8.06 (s, 1H, H-3 or H-7), 7.68 (d, J=8.4 Hz, 1H, H-4), 7.52 (dd, J=8.4, 1.5 Hz, 1H, H-5), 7.20 (dd, J=2.0, 0.8 Hz, 1H, H-3 or H-7), 6.82 (t, J=4.7 Hz, 1H, amide NH), 4.20 (d, J=5.0 Hz, 2H, CH2), 3.96 (s, 3H, CO2Me), 1.51 (s, 9H, t-Bu); 13C NMR δ169.5, 167.7, 162.1 (3×CO), 136.4, 130.6, 129.7, 129.5 (C-2,6,8,9), 122.5, 118.8, 112.3, 108.4 (C-3,4,5,7), 82.6 (OCMe3), 52.2 (OCH3), 42.7 (CONHCH2), 28.1 (t-Bu). Anal. (C17H20N2O5) C,H,N.

reactant | 2-(Methoxycarbonyl)indole-6-carboxylic acid | COC(=O)C=1NC2=CC(=CC=C2C1)C(=O)O | C11H9NO4
reactant | glycine t-butyl ester hydrochloride | Cl.C(C)(C)(C)OC(CN)=O
reactant | NaHCO3 | 1 equivalent | C(=O)(O)[O-].[Na+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
product | N-[(butoxycarbonyl)methyl]-2-(methoxycarbonyl)indole-6-carboxamide | 86% | C(CCC)OC(=O)CNC(=O)C1=CC=C2C=C(NC2=C1)C(=O)OC | C17H20N2O5
